US08247403B2
(4) 4-benzyl-9-bromo-6-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine
To a solution of 4-benzyl-9-bromo-6-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one (1.40 g, 4.00 mmol) in tetrahydrofuran (30 ml) was added under ice-cooling 1M borane tetrahydrofuran solution (16.0 ml, 16.0 mmol), and the mixture was stirred at 60° C. for 3 hr. Under ice-cooling, methanol (20 ml) and sodium hydroxide (1.60 g, 40.0 mmol) were added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure. The residue was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (350 mg, 26.1%) as an oily substance.

reactant | 4-benzyl-9-bromo-6-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 4.00 mmol, 1.40 g | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C(=CC=C2Br)F | C16H13BrFNO2
reactant | borane tetrahydrofuran | 16.0 mmol, 1M, 16.0 ml | O1CCCC1.B
reactant | methanol | 20 ml | CO | CH4O
reactant | sodium hydroxide | 40.0 mmol, 1.60 g | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-benzyl-9-bromo-6-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine | 350 mg, 26.1% | C(C1=CC=CC=C1)N1CCOC2=C(C1)C(=CC=C2Br)F | C16H15BrFNO
